//============================================================================
// CAPACITOR
// Cxx NP NN
//      [MOD[EL]=MNAME] [DCCUT] [VAL] [M=VAL] [L=VAL] [W=VAL]
//    + [T[EMP]=VAL] [DTEMP=VAL]
//    + [TC1=T1] [TC2=T2] [TC3=T3] [IC=VAL]
//    + [STATISTICAL=0|1]
//
//      POLY VAL {COEF}
//    + [M=VAL] [TC1=T1] [TC2=T2] [TC3=T3]
//    + [CTYPE=VAL] [IC=VAL]
//    + [STATISTICAL=0|1]
//
//      [VALUE=]{EXPR} [ACDERFUNC=0|1] [RESTORE_CAUSALITY=0|1]
//    + [TC1=T1] [TC2=T2] [TC3=T3] [CTYPE=VAL]
//    + [STATISTICAL=0|1]
//============================================================================
c0 n3 n4 0.5pf
c1 n3 n7 poly 5p 0.1p 0.07p 0.004p
c2 n1 n2 cval
c3 1 2 value={2n * v(3, 4) * i(v5)}
c4 1 0 value={1.0e-9 * v(2, 0)}
c5 NP NN TES MOD=MNAME 0.5pf 1pf M=1.0 L=2nm W=1nm T=27 DTEMP=0.0 TC1=0.0 TC2=0.0 TC3=0.0 IC=5
c3 1 s cmodel 0.5pf
c1 1 2 cmodel1 tc1=25e-3 m=2 dtemp=10

// ============================================================================
// SPICE Models.
// ============================================================================
// Capacitors
CBYP 13 0 1UF
COSC 17 23 10U IC=3V

// Semiconductor Capacitors
CLOAD 2 10 10P
CMOD 3 7 CMODEL L=10u W=1u